US07566724B2
Under an argon atmosphere, N-(4-bromophenyl)pyrimidin-2-amine (75 mg) was added to a suspension of sodium hydride (16 mg) in anhydrous DMF (3 ml), and the resulting mixture was stirred at room temperature for 30 minutes. The reaction solution was cooled to 0° C. and 4-methoxybenzyl chloride (0.045 ml) was added thereto, followed by stirring the resulting mixture at room temperature for 1 hour. Saturated brine was added to the reaction solution and the resulting mixture was extracted 3 times with ethyl acetate. Organic layers were washed 3 times with water and once with saturated brine, and dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated. The residue was purified by column chromatography (silica gel, eluent: ethyl acetate/hexane=1/10) to obtain N-(4-bromophenyl)-N-(4-methoxybenzyl)pyrimidin-2-amine (107 mg).

reactant | N-(4-bromophenyl)pyrimidin-2-amine | 75 mg | BrC1=CC=C(C=C1)NC1=NC=CC=N1 | C10H8BrN3
reactant | sodium hydride | 16 mg | [H-].[Na+]
reactant | 4-methoxybenzyl chloride | 0.045 ml | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | N-(4-bromophenyl)-N-(4-methoxybenzyl)pyrimidin-2-amine | 107 mg | BrC1=CC=C(C=C1)N(C1=NC=CC=N1)CC1=CC=C(C=C1)OC | C18H16BrN3O
